US04975438
As before in Example 134, a solution of (E)-5,5-bis(2-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (2.1 g)and 3-pyridinebutanamine (0.9 g) in tetrahydrofuran (20 mL) was stirred overnight at room temperature and then worked up in the normal manner. The crude was purified by HPLC (ethyl acetate) and then crystallized from ether to yield 1.8 g of (E)-5,5-bis(2-methoxyphenyl)-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide, mp 103.5°-104.5° C.

reactant | (E)-5,5-bis(2-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 2.1 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=C(C=CC=C1)OC)C1=C(C=CC=C1)OC)=O | C25H21NO6
reactant | 3-pyridinebutanamine | 0.9 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (E)-5,5-bis(2-methoxyphenyl)-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide | 1.8 g | COC1=C(C=CC=C1)C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)C1=C(C=CC=C1)OC | C28H30N2O3
